US05808062
4-Hydroxy-6-(3-methylphenyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one:
This compound was prepared by the condensation of the diethyl ester of [(phenylmethyl)thio]-propanedioic acid (1 g, 3.54 mmol) with the corresponding trimethylsilyl enol ether of 3'-methyl acetophenone (7.09 mmol, 1.46 g) as described in general procedure A. Isolated Yield: 65% m.p. 137°-138° C. 1H NMR (400 MHz, DMSO-d6) δ 11.9 (brs, 1 H), 7.6 (m, 2 H), 7.39 (t, 1 H), 7.35 (d, 1 H), 7.25 (d, 4 H), 7.2 (m, 1 H), 6.7 (s, 1 H), 4.0 (s, 2 H), 2.38 (s, 3 H); IR (KBr) 3030, 2585, 1617, 1536, 1402,. 1100, 787, 696 cm-1; MS (CI) m/e 325 (65), 291 (2), 233 (4), 119 (9), 91 (100).

reactant | [(phenylmethyl)thio]-propanedioic acid | 3.54 mmol, 1 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
reactant | 3'-methyl acetophenone | 7.09 mmol, 1.46 g | CC=1C=C(C=CC1)C(C)=O | C9H10O
reactant | KBr | [K+].[Br-]
product | 4-Hydroxy-6-(3-methylphenyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one | Yield: 65% | OC1=C(C(OC(=C1)C1=CC(=CC=C1)C)=O)SCC1=CC=CC=C1 | C19H16O3S
